US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (425 mg, 2.00 mmol), piperidine (119 μL, 1.20 mmol), iodobenzene (112 μL, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). Column chromatography using a solvent mixture (hexane/ethyl acetate=20/1, Rƒ=0.4) afforded N-(phenyl)piperidine (129 mg, 80% isolated yield) as colorless liquid. The spectral data (1H NMR) matched with the literature references and GC analysis indicated >95% purity. See Beller, M.; Breindl, C.; Riermeier, T. H.; Tillack, A. J. Org. Chem. 2001, 66, 1403-1412; and Li, G. Y. Angew. Chem., Int. Ed. 2001, 40, 1513-1516.

reactant | K3PO4 | 2.00 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | piperidine | 1.20 mmol, 119 μL | N1CCCCC1 | C5H11N
reactant | iodobenzene | 1.00 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
reactant | ethylene glycol | 2.00 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.05 mmol, 10 mg | [Cu]I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | N-(phenyl)piperidine | 129 mg, 80% | C1(=CC=CC=C1)N1CCCCC1 | C11H15N
